US08445510B2
Ethyl trans-4-[3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]cyclohexanecarboxylate
To a solution of ethyl trans-4-(4-iodo-3-methyl-1H-pyrazol-1-yl)cyclohexanecarboxylate (120.0 mg, 0.3313 mmol) in THF (6 mL, 80 mmol) was added 2 M isopropylmagnesium chloride in THF (0.66 mL, 1.3 mmol) at rt, and the mixture was stirred for 30 min. 2-Methoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (0.27 mL, 1.7 mmol) was added, and the mixture stirred at rt for 2 h. The reaction was quenched with sat. NH4Cl, and the organic solvent was removed in vacuo. The material was extracted with DCM and water, and the organic layer was concentrated in vacuo to afford the title compound as a clear oil.

reactant | ethyl trans-4-(4-iodo-3-methyl-1H-pyrazol-1-yl)cyclohexanecarboxylate | 0.3313 mmol, 120.0 mg | IC=1C(=NN(C1)[C@@H]1CC[C@H](CC1)C(=O)OCC)C | C13H19IN2O2
reactant | THF | 80 mmol, 6 mL | C1CCOC1 | C4H8O
reactant | isopropylmagnesium chloride | 2 M | C(C)(C)[Mg]Cl
reactant | THF | 1.3 mmol, 0.66 mL | C1CCOC1 | C4H8O
reactant | 2-Methoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 1.7 mmol, 0.27 mL | COB1OC(C(O1)(C)C)(C)C | C7H15BO3
product | Ethyl trans-4-[3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]cyclohexanecarboxylate | CC1=NN(C=C1B1OC(C(O1)(C)C)(C)C)[C@@H]1CC[C@H](CC1)C(=O)OCC | C19H31BN2O4
